US08633173B2
N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine
N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine (95.0 mg, 0.294 mmol) and 3-(4-methylpiperazin-1-yl)aniline (70.0 mg, 0.366 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (32.0 mg, 0.0585 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a light brown foam (0.077 g, 55%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.51 (s, 1H), 8.11 (d, J=6.5, 1H), 7.98 (d, J=7.8 Hz, 1H), 7.58-7.51 (m, 2H), 7.43 (s, 1H), 7.30-7.25 (m, 1H), 7.20 (t, J=8.1 Hz, 1H), 6.92 (d, J=8.0 Hz, 1H), 6.84-6.78 (m, 2H), 6.57 (d, J=8.1 Hz, 1H), 3.33-3.25 (m, 4H), 3.13 (s, 3H), 2.70-2.57 (m, 4H), 2.39 (s, 3H). MS=478 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine | 0.294 mmol, 95.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C13H11ClN4O2S
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.366 mmol, 70.0 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0585 mmol, 32.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C | C24H27N7O2S
